US06548495B2
5-Chloro-2-nitro-4-pyrrol-1-yl-phenylamine
The title compound was prepared from 5-chloro-2-nitro-1,4-phenylenediamine [CAS-no. 26196-45-2] (4.69 g, 25 mmol), 2,5-dimethoxytetrahydrofuran (4.2 mL, 32.5 mmol) in HOAc (150 mL) at 95° C. for 2 h according to the general procedure F. Obtained as a red solid (4.10 g).

reactant | 5-chloro-2-nitro-1,4-phenylenediamine | 25 mmol, 4.69 g | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])N | C6H6ClN3O2
reactant | 2,5-dimethoxytetrahydrofuran | 32.5 mmol, 4.2 mL | COC1OC(CC1)OC | C6H12O3
solvent | HOAc | 150 mL | CC(=O)O | C2H4O2
product | 5-Chloro-2-nitro-4-pyrrol-1-yl-phenylamine | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])N1C=CC=C1 | C10H8ClN3O2
